Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / ___ Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___
 
Chief Complaint:
Back pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ history of ESRD s/p cadaveric transplant in ___ 
prednisone and tacrolimus, baseline Cr ___, history of 
cerebral aneurysm, chronic back, leg pain and spinal stenosis, 
HTN, osteonecrosis who is presenting from home by ambulance with 
recurrent back pain, decreased PO intake, and vomiting.  
 The patient was a relatively poor historian, but reported that 
two weeks ago she had some episodes of vomiting that have since 
resolved. She also reported worsening back pain. She has a 
history of polyosteoarthritis, chronic LBP, AVN of the hip s/p L 
total hip arthroplasty s/p hardware removal, R hip OA, and 
polyneuropathy. She is wheelchair bound at home. She was seen in 
orthopedics at ___ in ___ where she was recommended for 
steroid injection for her right greater trochanteric bursa 
region pain. Because of worsening pain across her back, she 
presented to the ED. Of note, she had an EGD on ___ which 
showed grade II esophageal varices and gastric ulcer.  
 The patient was admitted in ___ for fever and AMS 
secondary to UTI (E. faecalis sensitive to ampicillin) and 
c.diff, as well as concern for outpatient opiate use.  
 In the ED, initial VS: 97.2 86 90/53 19 98% RA  
 Exam notable for diffuse abdominal tenderness, without discrete 
tenderness on spine palpation.  
 Labs notable for: Normal WBC, Hbg 10.9, Normal platelets
 K 3.1 Cl 94 HCOE 18 BUN 18 Cr 1.9 (baseline ___, glucose51, 
AG of 24  
 Lactate normal  
 LFTs were normal (ALT < 5), Alb 3.2  
 U/A with few bacteria, 8 WBCs, 40 ketones, 30 protein, large 
leuks, trace blood.  
 negative urine tox, serum tox positive for oxycodone only (home 
med).  
 Imaging notable for normal renal ultrasound, CXR w/o acute 
process.  
 Pt received 1L NS bolus and additional NSD5 +20mEq KCl @250 
x1L, Zofran, APAP.  
 On the floor, the patient denied headache, fever, diarrhrea, 
vomiting, numbness/tingling, weakness, dysuria. She did report 
decreased PO intake. She was been making urine.  

 
Past Medical History:
RENAL:
# s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and tacrolimus; baseline Cr 
___   
# Acute interstitial nephritis ___ presumably from ranitidine 
 
# Polyneuropathy in renal disease  
# Anemia  of chronic disease

CARDIAC:
# CAD: NSTEMI ___, s/p cardiac cath without intervention 
# Paroxysmal atrial fibrillation 
# Hypertension
# Hyperlipidemia  
# Diastolic dysfunction  
# H/o DVT  

ENDOCRINE:
# Hypothyroidism  
# Osteopenia ___ chronic steroid use

SURGERY
# s/p craniotomy for ICH (?intracranial aneurysm)  
# s/p foot surgeries  

GI/HEPATOLOGY
# GERD

SURGERY
# Osteonecrosis of bilateral feet c/b osteomyelitis 
# osteonecrosis of L hip requiring surgical intervention and 
girdlestone procedure
# s/p cholecystecomy, s/p appendectomy  
# small intestinal adenoma with endoscopic resection c/b bowel 
perforation requiring ___ in ___  
# Cataract surgery  

INFECTIOUS
# MRSA osteomyelitis ___  
# Hx of c.diff 2 and ___ yrs ago  
# recurrent UTI (lower urinary tract infection)  

PSYCH
# Panic disorder  

HEENT
# Hearing loss of both ears   

MISC
# Chronic low back pain w/ sciatica 
 
Social History:
___
Family History:
 Father died ___ CAD at age ___.  
 Mother died young of unknown causes.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
 Vital Signs: 98.6PO 96 / 54 83 16 94 RA  
 General: Cachectic female laying in bed in NAD, increased 
speech latency, perseverative.  
 HEENT: Pinpoint pupils, reactive. Anicteric sclerae. MM 
slightly dry. Neck supple, no JVD.  
 CV: RRR, systolic ejection murmur heard best over RUSB.  
 Lungs: CTAB  
 Back: No spinal tenderness.  
 GU: Foley in place.  
 Ext: Warm, well perfused, no edema, chronic venous stasis 
changes b/l lower extremities.  
 Neuro: AAOx3  

DISCHARGE PHYSICAL EXAM
=======================
VITALS - 97.7 | 89/60 | 77 | 16 | 98%RA
  I (MN): 524  || O (MN): 855
  I (24h): 4520 || O (24h): 903
GENERAL - cachectic female laying in bed in NAD, comfortable 
appearing
HEENT - small pupils, reactive. Anicteric sclerae. MMM. Neck 
supple.
CV - regular, normal S1/S2, systolic ejection murmur heard best 
over RUSB.  
LUNGS - clear to auscultation of lateral fields. No increased 
work of breathing.
ABDOMEN - soft, tender to palpation over left lateral aspect of 
abdomen; no superpubic pain, no organomegaly. 
GU: Foley in place draining yellow urine.
Ext: Warm, well perfused, no edema, chronic venous stasis 
changes b/l lower extremities. Left leg several inches shorter 
than right. Toes with medial deviation. Diffusely tender when 
patient is attentive to exam.
Neuro: A&Ox3. Face symmetric. Can rotate on own and lift legs 
against gravity (R barely).
 
Pertinent Results:
ADMISSION LABS
==============
___ 04:55PM BLOOD ___ 
___ Plt ___
___ 04:55PM BLOOD ___ 
___ Im ___ 
___
___ 04:55PM BLOOD ___ TO  ___ TO  
___ TO 
___ 04:55PM BLOOD ___ 
___
___ 04:55PM BLOOD ALT-<5  ___
___ 04:55PM BLOOD ___
___ 04:57PM BLOOD ___
___ 07:05PM BLOOD ___ 
___
___ 07:22PM BLOOD ___ 
___ Base XS--4 ___
___ 05:08PM BLOOD ___

MICRO
=====
     URINE     Site: CLEAN CATCH
      URI ADDED @ 0606 ___ CHEM # ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING
=======
___ CXR: FINDINGS: Heart size is mildly enlarged, unchanged. 
 The aorta is diffusely calcified and tortuous, as seen 
previously.  Otherwise the mediastinal and hilar contours are 
unchanged.  Pulmonary vasculature is not engorged.  No focal 
consolidation, pleural effusion or pneumothorax is seen.  
Minimal patchy atelectasis is present within the lung bases.  
Clips are noted in the right upper quadrant of the abdomen.  
There are mild multilevel degenerative changes seen in the 
thoracic spine. 
IMPRESSION: No acute cardiopulmonary abnormality. 

___: LIVER OR GALLBLADDER US (SINGLE ORGAN) IMPRESSION:  
1. No sonographic findings to explain patient's pain. 
2. Coarsened hepatic parenchyma. 
3. Main portal vein is patent. 
4. Again seen pneumobilia. 
 

MR ___ SPINE W/O CONTRAST IMPRESSION:   
1.  Study is moderately degraded by motion, and limited 
secondary to lack 
administration intravenous contrast, which was not administered 
due to patient history of contrast reaction. 
2. Right ___ intervertebral disc space fluid collection with 
adjacent linear endplate edema, and no definite prevertebral or 
epidural extension, and background moderate levoscoliosis 
centered at this level. While findings are suggestive of 
degenerative changes, infectious or inflammatory etiologies are 
not excluded on the basis examination.  Recommend correlation 
with serum inflammatory markers and attention on followup 
imaging. 
3. Severe multilevel lumbar spondylosis, with multiple areas of 
moderate to severe spinal canal and neural foraminal narrowing, 
as described. 
4. Moderate lumbar levoscoliosis. 
5. 13 mm left presacral cystic lesion, which may be ovarian in 
nature, and 
requires ___ year ___ pelvic ultrasound in this 
postmenopausal female. 
  
RECOMMENDATION(S): 
1. Right ___ intervertebral disc space fluid collection with 
adjacent linear endplate edema, and no definite prevertebral or 
epidural extension, and background moderate levoscoliosis 
centered at this level. While findings are suggestive of 
degenerative changes, infectious or inflammatory etiologies are 
not excluded on the basis examination.  Recommend correlation 
with serum inflammatory markers and attention on followup 
imaging. 
2. 13 mm left presacral cystic lesion, which may be ovarian in 
nature, and 
requires ___ year ___ pelvic ultrasound in this 
postmenopausal female.

INTERVAL LABS
=============
___ 06:01AM BLOOD ALT-<5 ___ TotBili-<0.2
___ 06:14AM BLOOD CK(CPK)-25*
___ 06:01AM BLOOD ___
___ 05:53AM BLOOD ___
___ 06:14AM BLOOD ___

DISCHARGE LABS
===============
___ 10:52AM BLOOD ___ 
___ Plt ___
___ 10:52AM BLOOD ___ 
___
___ 10:52AM BLOOD ___
___ 10:52AM BLOOD ___

 
Brief Hospital Course:
___ with relevant history including ESRD ___ cadaveric 
transplant in ___ (on prednisone and tacrolimus, basleine 
creatinine ___ and chronic back and leg pain in the setting 
of spinal stenosis and history of osteonecrosis, hypothyroidism, 
panic disorder, grade II esophageal varices and ulcer on EGD on 
___, presenting with worsening back pain and decreased PO 
intake, found to have starvation ketoacidosis and C. difficile 
colitis. 

ACTIVE ISSUES:
# STARVATION KETOACIDOSIS, 
# HYPOTENSION and 
# LOW URINARY OUTPUT: secondary to decreased PO intake. 
Presented with hypoglycemia as well. Acidosis, hypotension and 
low urinary output improved with IV hydration. While in house 
and on discharge, patient taking adequate PO intake of solids & 
liquids. 

# ENCEPHALOPATHY: evaluated for infection, but work up negative. 
Patient on oxycodone SR and ___ at home for chronic pain (low 
doses). Toxicology screen negative. Mental status improved with 
IV hydration and ___ of oxycodone. On discharge, 
alert & oriented x3, though with occasional difficulties with 
word finding, speech latency & paraphrasic errors. CT head from 
___ showed status post left frontal craniotomy. There is no 
evidence of infarction, hemorrhage, edema, or mass. There is 
prominence of the ventricles and sulci suggestive of 
involutional changes. Suspect related to ketoacidosis.  

# ACUTE KIDNEY INJURY: baseline Cr 1.4. Elevated to 1.9 on 
admission, which improved with IV hydration. Transplant kidney 
ultrasound normal, without hydronephrosis. Cr on discharge 1.1. 

# C. DIFFICILE COLITIS, REPEAT EPISODE: patient developed 
diarrhea, and found to be positive for C. difficle toxin on 
___. Vancomycin PO started, and should be continued for 14 day 
course, until ___. No clear precipitant, as had not received 
antibiotics, though immunosuppressed for transplant. 

# BILATERAL SHOULDER PAIN,
# BACK PAIN, and 
# SCIATICA: patient with chronic pain, she describes as 
bilateral shoulders, spinous and right sided sciatica. She takes 
oxycodone SR and ___ for management. CRP elevated (with normal 
ESR), so could consider PMR. Patient offered diagnostic trial of 
increased prednisone, though declined. MRI spine with 
degenerative changes. ___ negative. Given allergies, duloxetine 
started for pain management, and should be uptitrated as 
outpatient. Bilateral rotator cuff injury, as well as sciatica, 
and DJD all also possible etiologies. ___ evaluated & cleared for 
discharge home. Kept oxycontin at home level but reduced 
oxycodone 5mg BID to 2.5mg BID due to concerned for confusion 
following 5mg dose.

# SUSPECTED CIRRHOSIS: esophageal varices identified on OSH EGD 
(___). Coarsening of the liver on abdominal ultrasound. 
Unclear etiology, as denies significant etOH history. Hepatitis 
serologies negative. On admission, LFTs notable for ALT <5, 
likely due to cachexia. Should have outpatient hepatology follow 
up. 

STABLE/CHRONIC ISSUES
=====================
#ESRD s/p cadaveric transplant, CKD: Baseline Cr ___. Pt has 
been making urine. Received 1L NS and mIVF x1 L since admission 
from ED. Patient not taking prophylactic acyclovir (was told to 
stop because of kidney function). Continued home tacrolimus, 
increased from daily to BID. Continued prednisone 5mg daily and 
home calcitriol. 

#ANEMIA: Most recent labs notable for elevated ferritin, c/w 
anemia of chronic disease

#pAF: Fractionated home metoprolol (Metoprolol Succinate XL 50 
mg daily at home). Apparently not anticoagulated except with 
full strength ASA. CHADS2VASC is 5.

#CAD: Home statin, metoprolol as above; pt on full strength ASA 
at home but will give 81 mg.

#HTN: Hold home metoprolol, as above  

#GERD: duodenal ulcer on ___ EGD. Home PPI 

#SOCIAL ISSUES: Pt w/some confusion over her medications, 
unclear compliance. Son, who was previously HCP, is a heroin 
user. Patient is perseverative. Concerns in the past over opioid 
misuse.  

============================================
********** TRANSITIONAL ISSUES *************
============================================
- Repeat CRP/ESR after completion of C. difficile treatment 
(___) to ensure resolution of elevated inflammatory markers. 
If persistently elevated, would consider referral to 
rheumatology for evaluation of elevated inflammatory markers & 
arthralgias
- Repeat imaging of small ___ cyst (? if ovarian in 
nature), with pelvic ultrasound, recommended in ___
- Tacrolimus dose increased to 0.5 mg Q12 hours; please follow 
levels
- Duloxetine 30 mg daily started during hospitalization for 
pain; consider dose increase to 60 mg daily at PCP visit 
- ___ dose reduced to 2.5 mg twice daily as needed for 
pain to avoid confusion
- OSH EGD demonstrating esophageal varices; abdominal ultrasound 
with hepatic coarsening - consider referral to hepatologist for 
further evaluation & management of possible liver cirrhosis
- Hepatitis serologies negative: consider vaccination
- Consider discussions about code status
- C. difficile colitis & diarrhea: on vancomycin 125 mg PO Q6 
hours until ___ total 14 day course 
- Healthcare Proxy changed during hospitalization: ___ 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Calcitriol 0.5 mcg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Omeprazole 40 mg PO Q12H 
5. PredniSONE 5 mg PO DAILY 
6. Rosuvastatin Calcium 40 mg PO Q24H 
7. Lidocaine 5% Patch 1 PTCH TD QPM R hip pain 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. OxycoDONE (Immediate Release)  5 mg PO BID:PRN pain 
10. Tacrolimus 0.5 mg PO Q24H 
11. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
12. Ondansetron 4 mg PO Q6H:PRN nausea 
13. ClonazePAM 0.5 mg PO QHS:PRN anxiety 
14. Acyclovir 400 mg PO Q12H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times per 
day Disp #*180 Tablet Refills:*0 
2.  DULoxetine 30 mg PO DAILY 
RX *duloxetine 30 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY 
RX ___  1 tablet(s) by mouth daily Disp 
#*180 Tablet Refills:*0 
4.  Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every 6 hours Disp 
#*48 Capsule Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  OxyCODONE (Immediate Release) 2.5 mg PO BID:PRN Pain - 
Moderate  
7.  Tacrolimus 0.5 mg PO Q12H 
RX *tacrolimus 0.5 mg 1 capsule(s) by mouth every 12 hours Disp 
#*60 Capsule Refills:*0 
8.  Acyclovir 400 mg PO Q12H  
9.  Calcitriol 0.5 mcg PO DAILY  
10.  ClonazePAM 0.5 mg PO QHS:PRN anxiety  
11.  Levothyroxine Sodium 125 mcg PO DAILY  
12.  Lidocaine 5% Patch 1 PTCH TD QPM R hip pain  
13.  Metoprolol Succinate XL 50 mg PO DAILY  
14.  Omeprazole 40 mg PO Q12H  
15.  Ondansetron 4 mg PO Q6H:PRN nausea  
16.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H  
17.  PredniSONE 5 mg PO DAILY  
18.  Rosuvastatin Calcium 40 mg PO Q24H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: starvation ketoacidosis, C. difficile 
colitis, encephalopathy 
Secondary diagnoses: sciatica, chronic pain, ESRD s/p DDRT

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ feeling unwell, and were found to 
have low blood pressure, confusion & poor nutrition. This 
improved with food and IV hydration. 

We got MRI pictures of your back to examine for a cause of your 
pain. You have bad arthritis there. We started you on a 
medication called duloxetine (Cymbalta) for your pain. In 1 
week, this medication can be increased to help your pain more. 

You should also have a pelvic ultrasound in ___ year to follow up 
on a very small cyst (fluid collection). 

While here, you developed C. difficile diarrhea. You were given 
antibiotics, which you should continue to take until ___.

You should also follow up with a liver & spine doctor. Your PCP 
can refer you to one. 

It was a pleasure caring for you. We wish you the very best!
- Your care team at ___ 

 
Followup Instructions:
___